US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-[3-(trifluoromethyl)phenyl]-2-propen-1-one
The title compound was prepared from a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol) and 3-(trifluoromethyl)benzaldehyde (85 ul, 0.633 mmol) similar to Example 6 and isolated as a yellow solid (88 mg, 30%). 1H NMR (CDCl3): 7.86 (s, 1H), 7.76-7.50 (m, 5H), 7.35 (d, J=3.0 Hz, 1H), 7.14 (dd, J=3.3, 9.3 Hz, 1H), 6.94 (d, J=9.0 Hz, 1H), 4.47-4.32 (m, 4H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | 3-(trifluoromethyl)benzaldehyde | 0.633 mmol, 85 ul | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-[3-(trifluoromethyl)phenyl]-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=CC(=CC=C1)C(F)(F)F)=O)(F)F | C20H13F9O3
